US06635657B1
Preparation of 5-Chloro-N-(5-chloropyridin-2-yl)-2-[1-(4-thianyl)piperidin-4-ylmethylamino]benzamide
A solution of 5-chloro-N-(5-chloropyridin-2-yl)-2-(piperidin-4-ylmethylamino)benzamide (0.44 g, 1.2 mmol) in methanol-acetic acid (95:5) (10 mL) was treated with tetrahydrothiopyran-4-one (1.34 g, 11.5 mmol) and sodium cyanoborohydride (4.6 mL of a 1 M solution in tetrahydrofuran). The reaction mixture was stirred at room temperature for 48 h, then heated at 50° C. for an additional 60 h. After cooling to room temperature, the solvent was removed in vacuo; the resulting residue was redissolved in methanol and directly applied to 5×10 g SCX columns, washed with methanol and eluted with dichloromethane-2 N ammonia in methanol (1:1). The product fractions were concentrated in vacuo and the residue was purified via silica gel chromatography. Elution with ethyl acetate followed by ethyl acetate-methanol (9:1) afforded the title compound (0.46 g, 84%) as a yellow solid, which was further purified via trituration in acetonitrile followed by separation of the yellow mother liquor.

reactant | 5-chloro-N-(5-chloropyridin-2-yl)-2-(piperidin-4-ylmethylamino)benzamide | 1.2 mmol, 0.44 g | ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NCC1CCNCC1 | C18H20Cl2N4O
reactant | tetrahydrothiopyran-4-one | 11.5 mmol, 1.34 g | S1CCC(CC1)=O | C5H8OS
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol acetic acid | 10 mL | CO.C(C)(=O)O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-Chloro-N-(5-chloropyridin-2-yl)-2-[1-(4-thianyl)piperidin-4-ylmethylamino]benzamide | 0.46 g, 84% | ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NCC1CCN(CC1)C1CCSCC1 | C23H28Cl2N4OS
